US05196586
100 mg of copper (I) chloride was dissolved in a mixture of 20 ml of isopropylamine and 20 ml of methanol in an atmoshpere of argon, and 1320 mg of 4-ethynylanisole were added to the resultant solution, followed by stirring at room temperature for 10 minutes. 2700 mg of 1-bromo-3-hydroxy-3-methyl-1-butyne were then dropwisely added to the solution over a time of about 3 hours, followed by stirring at room temperature fo 2 hours (If the solution is colored green owing to the production of copper (II) ion, an appropriate amount of hydroxilamine hydrochloride is added so as to reduce the copper (II) ion). The solvent was then evaporated from the reaction mixture, and the residue was neutralized and diluted by 1N hydrochloric acid, and then subjected to extraction with 50 ml of dichloromethane three times. The organic layer was dried over magnesium sulfate, and the solvent was then evaporated. The residue was then purified by silica-gel column chromatography using benzene as an eluent to obtain 1500 mg of 5-hydroxy-5-methyl-1-(4-methoxyphenyl)hexa-1,3-diyne.

reactant | 4-ethynylanisole | 1320 mg | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | 1-bromo-3-hydroxy-3-methyl-1-butyne | 2700 mg | BrC#CC(C)(C)O | C5H7BrO
reactant | hydroxilamine hydrochloride | Cl.NO
solvent | isopropylamine | 20 ml | C(C)(C)N | C3H9N
solvent | methanol | 20 ml | CO | CH4O
catalyst | copper (I) chloride | 100 mg | [Cu]Cl
catalyst | copper (II) | [Cu+2]
product | 5-hydroxy-5-methyl-1-(4-methoxyphenyl)hexa-1,3-diyne | 1500 mg | OC(C#CC#CC1=CC=C(C=C1)OC)(C)C | C14H14O2
